US04933357
To a suspension of magnesium turnings (9.6 g) in anhydrous ether (50 ml) was added dropwise to a solution of p-chlorobromobenzene (76.6 g) in anhydrous ether (500 ml) at such a rate as to maintain reflux. After refluxing for a further 20 minutes, the solution was cooled to 5o and a solution of allyl bromide (48.4 g) in anhydrous ether (100 ml) was added over 15 minutes. After 30 minutes the solution was allowed to warm to room temperature, and then saturated ammonium chloride was added dropwise, cautiously to avoid excessive frothing. The organic layer was separated and the aqueous phase was extracted with ether. After washing the ether extracts with water and drying, evaporation of the solvent gave a pale yellow oil which was purified by fractional distillation to give 3-(4-chlorophenyl)prop-1-ene as a colourless oil, b.p. 72°-74°/4 mm Hg. (532 Pa).

reactant | magnesium | 9.6 g | [Mg] | Mg
reactant | p-chlorobromobenzene | 76.6 g | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | allyl bromide | 48.4 g | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-(4-chlorophenyl)prop-1-ene | ClC1=CC=C(C=C1)CC=C | C9H9Cl
